US05712270
2-Amino-4-thiazolecarboxylic acid ethyl ester (16.2 g, 100 mmol) and triethylamine (TEA, 10.5 g, 104 mmol) were combined in anhydrous tetrahydrofuran (THF, 200 mL) in a nitrogen atmosphere. To this was added slowly with stirring a solution of 3,5-bis(1,1-dimethylethyl)-4-hydroxybenzoylchloride (28 g, 104 mmol) in THF (100 mL). The reaction mixture was heated under reflux and monitored for disappearance of starting material by TLC (silica gel, 2% methanol in methylene chloride). After two days, the reaction mixture was cooled to room temperature and filtered to give 14.67 g of 2-[[[3,5-Bis(1,1-dimethylethyl)-4-hydroxyphenyl]-carbonyl]-amino]-4-thiazolecarboxylic acid ethyl ester as a white solid, m.p. 233°-235° C. The filtrate was poured into ice water and extracted five times with diethyl ether. The ether phase was dried and evaporated and the residue was purified by flash chromatography on silica gel eluting with 20:80 hexane:methylene chloride to give 29.41 g of additional ethyl ester.

reactant | 2-Amino-4-thiazolecarboxylic acid ethyl ester | 100 mmol, 16.2 g | C(C)OC(=O)C=1N=C(SC1)N | C6H8N2O2S
reactant | triethylamine | 104 mmol, 10.5 g | C(C)N(CC)CC | C6H15N
reactant | 3,5-bis(1,1-dimethylethyl)-4-hydroxybenzoylchloride | 104 mmol, 28 g | CC(C)(C)C=1C=C(C(=O)Cl)C=C(C1O)C(C)(C)C | C15H21ClO2
reactant | methanol | CO | CH4O
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | THF | 100 mL | O1CCCC1 | C4H8O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-[[[3,5-Bis(1,1-dimethylethyl)-4-hydroxyphenyl]-carbonyl]-amino]-4-thiazolecarboxylic acid ethyl ester | 14.67 g | C(C)OC(=O)C=1N=C(SC1)NC(=O)C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C21H28N2O4S
